US09119868B2
A suspension of methyl 5-(N-(5-cyclopropyl-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-6-yl)methylsulfonamido)-3-fluoro-2-nitrobenzoate (810 mg, 1.351 mmol) and Pd/C (10% wt, 144 mg, 0.135 mmol) was stirred under hydrogen (1 atm) in THF (10.0 mL) and MeOH (5.0 mL) overnight. The mixture was filtered through 45 um disc and washed with EtOAc. The filtrate was concentrated and purified by silica gel chromatography (0-50% EtOAc in hexanes) to give methyl 2-amino-5-(N-(5-cyclopropyl-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-6-yl)methylsulfonamido)-3-fluorobenzoate (601 mg, 78% yield) as white solid. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 0.81-1.11 (m, 3H), 2.14-2.26 (m, 1H), 2.91-3.03 (m, 3H), 3.19 (s, 3H), 3.86 (s, 3H), 5.80 (d, J=4.5 Hz, 1H), 5.88 (br. s., 2H), 7.15-7.25 (m, 2H), 7.40 (dd, J=12.1, 2.5 Hz, 1H), 7.44 (s, 1H), 7.70 (s, 1H), 7.80 (dd, J=2.4, 1.5 Hz, 1H), 7.84-7.94 (m, 2H). LCMS (m/z, ES+)=570.3 (M+H+).

reactant | methyl 5-(N-(5-cyclopropyl-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-6-yl)methylsulfonamido)-3-fluoro-2-nitrobenzoate | 1.351 mmol, 810 mg | C1(CC1)C=1C(=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(NC)=O)C1)N(S(=O)(=O)C)C=1C=C(C(=C(C(=O)OC)C1)[N+](=O)[O-])F | C28H23F2N3O8S
reactant | MeOH | 5.0 mL | CO | CH4O
solvent | THF | 10.0 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | [Pd] | Pd
product | methyl 2-amino-5-(N-(5-cyclopropyl-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-6-yl)methylsulfonamido)-3-fluorobenzoate | 601 mg, 78% yield | NC1=C(C(=O)OC)C=C(C=C1F)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(NC)=O)C=C1C1CC1 | C28H25F2N3O6S
